US08859773B2
To a −78° C. solution of tert-butyl 4-((3-iodo-1-isopropyl-1H-pyrazol-4-yl)methyl)-4-isocyanatopiperidine-1-carboxylate (280 mg, 0.59 mmol) in tetrahydrofuran (10 mL) was added t-butyl lithium (0.7 mL, 1.7 M in pentane), dropwise. After stirring for 30 minutes at −78° C. the mixture was warmed to 0° C., quenched with 20 mL saturated aqueous ammonium chloride, and stirred an additional 30 minutes at room temperature. The reaction mixture was diluted with 25 mL water and extracted with ethyl acetate (2×50 mL). The combined organics were dried over sodium sulfate, filtered and concentrated. The residue was then purified by flash chromatography (12-100% ethyl acetate/heptanes, 10 g silica gel) to yield tert-butyl 2′-isopropyl-7′-oxo-2′,4′,6′,7′-tetrahydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-1-carboxylate (130 mg) as a colorless solid. +ESI (M+H) 349.1; 1H NMR (500 MHz, CDCl3, δ): 7.28 (s, 1H), 5.78 (s, 1H), 4.57 (spt, J=6.6 Hz, 1H), 3.59 (m, 2H), 3.37 (m, 2H), 2.82 (s, 2H), 1.74 (m, 4H), 1.55 (d, J=6.6 Hz, 6H), 1.47 (s, 9H).

reactant | tert-butyl 4-((3-iodo-1-isopropyl-1H-pyrazol-4-yl)methyl)-4-isocyanatopiperidine-1-carboxylate | 0.59 mmol, 280 mg | IC1=NN(C=C1CC1(CCN(CC1)C(=O)OC(C)(C)C)N=C=O)C(C)C | C18H27IN4O3
reactant | t-butyl lithium | 1.7 M, 0.7 mL | C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 2′-isopropyl-7′-oxo-2′,4′,6′,7′-tetrahydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-1-carboxylate | 130 mg | C(C)(C)N1N=C2C(NC3(CC2=C1)CCN(CC3)C(=O)OC(C)(C)C)=O | C18H28N4O3
